US04085222
(a) 3,3-bis(Hydroxymethyl)-2-octanone
2N Lithium hydroxide solution (1.0 ml) was added to a stirred solution of 2-octanone (4.5 g) and 36% aqueous formaldehyde (6.0 ml) in methanol (10 ml). The temperature was maintained at 10°-15° during the addition and then gradually allowed to rise to room temperature. After stirring for 48 hr, ether (50 ml) and brine (20 ml) were added and the layers separated. The aqueous layer was extracted with ethyl acetate (3 × 25 ml) and the combined extracts were dried (Na2SO4) and concentrated. The residue distilled to give a colourless oil b.p.100°-110°/0.05 torr.

reactant | Lithium hydroxide | 2N, 1.0 ml | [OH-].[Li+]
reactant | 2-octanone | 4.5 g | CC(CCCCCC)=O | C8H16O
reactant | formaldehyde | 6.0 ml | C=O | CH2O
reactant | ether | 50 ml | CCOCC | C4H10O
solvent | methanol | 10 ml | CO | CH4O
solvent | brine | 20 ml | [Cl-].[Na+].O
product | 3,3-bis(Hydroxymethyl)-2-octanone | OCC(C(C)=O)(CCCCC)CO | C10H20O3
